US05032487
52.5 g of n-nonyl-2-hydroxy-5-methylphenylketone were dissolved in 100 ml of ethanol. A solution of 9.1 g of sodium boron hydride dissolved in 50 ml of water containing 1.1 g of sodium hydroxide was added dropwise thereto. The mixture was stirred at 40° C. for 2 hours. 100 ml of water was added thereto. Further, 20 ml of acetic acid was slowly added dropwise thereto. After the addition, the reaction mixture was extracted with ethyl acetate, and the organic layer was concentrated. 200 ml of hexane was added thereto, and the precipitated crystals were recovered by filtration to obtain 7.1 g of 2-(1'-hydroxydecyl)-4-methylphenol.

reactant | n-nonyl-2-hydroxy-5-methylphenylketone | 52.5 g | C(CCCCCCCC)C=1C(=C(C=C(C1)C)C(=O)C1=C(C(=CC(=C1)C)CCCCCCCCC)O)O | C33H50O3
reactant | sodium boron hydride | 9.1 g | B.[Na]
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 50 ml, 1.1 g | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2-(1'-hydroxydecyl)-4-methylphenol | 7.1 g | OC(CCCCCCCCC)C1=C(C=CC(=C1)C)O | C17H28O2
